data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-c1ccccc1_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-CC_4-C(C)(C)C","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(c1ccccc1)C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","O=CC(CC)"],"products_smiles": ["C1(CC)OC(C(C)(C)C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=O)C1(c1ccccc1)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=O)C(=C(CC))(c1ccccc1)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)=C(c1ccccc1)C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C(C)(C)C)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)=C(c1ccccc1)C(=[OH+])C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C(C)(C)C)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(CC)C(c1ccccc1)=C(O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C(C)(C)C)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC)C(c1ccccc1)=C(O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C(C)(C)C)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC)OC(C(C)(C)C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=O)C1(c1ccccc1)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
{"reaction_id": "NR-061_1-CCCC(C)C_2-CC","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(CCCC(C)C)C(=O)CCCC(=O)O(CC)"],"products_smiles": ["O(CCCC(C)C)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(CCCC(C)C)C(=O)[CH-]CCCC(=O)O(CC)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(CCCC(C)C)C(=O)C1C([O-])(O(CC))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(CCCC(C)C)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
